* Z:\mnt\design.r\spice\examples\8708-1.asc
R1 N008 N017 1
R2 N006 N015 1
R3 N009 N018 1
R4 N007 0 2m
R5 N007 N010 10
R6 0 N011 10
C1 0 N010 1n
C2 N011 0 1n
C3 N002 N012 0.22µ
C4 N016 N003 0.22µ
C5 N023 0 4.7µ
R7 N021 0 100K
R8 N028 0 365K
C6 N029 0 10n
C7 N030 0 10n
C8 N001 N020 47n
L1 N002 N003 3.3µ
D1 N013 N012 MURS120
D2 N013 N016 MURS120
R9 N004 N019 100
R10 N004 OUT 2m
R11 N022 0 12.1K
V1 IN 0 12
R12 IN N026 93.1K
R13 N026 0 12.1K
R14 _Rvsoff N023 100K
V2 OUT 0 12
M§Q1 N001 N008 N002 N002 BSC016N04LS
M§Q2 N002 N005 N007 N007 BSC016N04LS
M§Q3 N004 N009 N003 N003 BSC016N04LS
M§Q4 N003 N006 N007 N007 BSC016N04LS
R15 N001 IN 2m
R16 N005 N014 1
C9 N001 0 100n
R17 IN N020 100
R18 IN N021 665K
R19 N023 N024 127K
R20 N024 0 54.9K
R21 OUT N022 133K
C10 OUT N019 47n
C11 0 OUT 100n
R22 N026 N033 27.4K
A1 N037 0 0 Dir 0 0 N040 0 XOR Trise=10n
S1 0 N033 N034 0 SW1
S2 0 N034 N037 0 SW1
R23 N023 N034 100K
V3 N037 0 PWL 0 0 +10u 3.3 3m 3.3 +10u 0
R24 N037 Dir 68.1K
C12 Dir 0 220p
S3 0 Swen N040 0 SW1
C13 0 N013 4.7µ
C14 N001 0 10µ
C15 N004 0 10µ
C16 N025 0 4.7n
C17 N027 0 4.7n
C18 N032 0 22n
C19 N031 0 4.7n
C20 N036 0 4.7n
C21 N035 0 22n
XU1 N021 N011 N010 N023 N026 N022 N032 N029 N030 Clk _Rvsoff N028 0 N014 N013 N015 N016 N018 N003 MP_01 N002 N017 N012 MP_02 MP_03 MP_04 MP_05 MP_06 NC_07 OUT N019 N001 N020 IN N013 Swen N024 N031 0 MP_08 MP_09 Dir N036 N035 0 N038 N025 N027 LT8708
R25 N039 0 20K
R26 OUT N039 100K
R27 N038 N039 154K
R30 N048 N057 1
R31 N046 N055 1
R32 N049 N058 1
R33 N047 0 2m
R34 N047 N050 10
R35 0 N051 10
C22 0 N050 1n
C23 N051 0 1n
C24 N042 N052 0.22µ
C25 N056 N043 0.22µ
C26 N062 0 4.7µ
R36 N061 0 100K
R37 N064 0 365K
C27 N065 0 10n
C28 N066 0 10n
C29 N041 N060 47n
L2 N042 N043 3.3µ
D3 N053 N052 MURS120
D4 N053 N056 MURS120
R38 N044 N059 100
R39 N044 OUT 2m
M§Q5 N041 N048 N042 N042 BSC016N04LS
M§Q6 N042 N045 N047 N047 BSC016N04LS
M§Q7 N044 N049 N043 N043 BSC016N04LS
M§Q8 N043 N046 N047 N047 BSC016N04LS
R44 N041 IN 2m
R45 N045 N054 1
C30 N041 0 100n
R46 IN N060 100
R47 IN N061 665K
R48 N062 N063 127K
R49 N063 0 54.9K
C31 OUT N059 47n
C32 0 OUT 100n
C34 0 N053 4.7µ
C35 N041 0 10µ
C36 N044 0 10µ
C39 N068 0 10n
C40 N067 0 4.7n
C41 N070 0 4.7n
C42 N069 0 4.7n
XU2 N061 N051 N050 N062 N062 0 N068 N065 N066 NC_10 _Rvsoff N064 0 N054 N053 N055 N056 N058 N043 MP_11 N042 N057 N052 MP_12 MP_13 MP_14 MP_15 MP_16 NC_17 OUT N059 N041 N060 IN N053 Swen N063 N067 Clk MP_18 MP_19 Dir N070 N069 0 N062 N025 N027 LT8708-1
R28 N023 Swen 20K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.model SW1 SW Ron=1 Roff=10Meg Vt=.5 Vh=-.4
* 12V Bidirectional Dual Battery System with FHCM and RHCM
.lib LT8708-1.sub
.lib LT8708.sub
.backanno
.end
